* C:\sandbox\spicelib\examples\testfiles\qsch_rotation.qsch
R1 1 2 10k
R2 2 3 10k
R3 3 4 10k
R4 4 5 10k
R5 5 6 10k
R6 6 7 10k
R7 7 8 10k
R8 8 9 10k
R9 9 10 10k
R10 10 11 10k
R11 11 12 10k
R12 12 13 10k
R13 13 14 10k
R14 14 15 10k
R15 15 16 10k
R16 16 0 10k
V1 1 0 10k
.end
